US04450272
2'-Fluoro-4-(2-pyrazinyl)-1-piperazinethiocarboxanilide
To a solution of 4.92 g. of 1-(2-pyrazinyl)piperazine in 50 ml. of anhydrous ether is added a solution of 4.59 g. of 2-fluorophenyl isothiocyanate in 50 ml. of anhydrous ether over a period of 10 minutes. The mixture is stirred for 30 minutes and the resulting solid is collectedand then recrystallized from 200 ml. of ethanol, giving 7.04 g. of the desired product, m.p. 151°-153° C.

reactant | 1-(2-pyrazinyl)piperazine | N1=C(C=NC=C1)N1CCNCC1 | C8H12N4
reactant | 2-fluorophenyl isothiocyanate | FC1=C(C=CC=C1)N=C=S | C7H4FNS
solvent | ether | CCOCC | C4H10O
product | 2'-Fluoro-4-(2-pyrazinyl)-1-piperazinethiocarboxanilide | FC1=C(NC(=S)N2CCN(CC2)C2=NC=CN=C2)C=CC=C1 | C15H16FN5S
